US08471005B2
2-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-pyrazol-1-yl}-1-morpholin-4-yl-ethanone
Into a microwave vial, 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.150 g, 0.000522 mol), 2-(3-Amino-pyrazol-1-yl)-1-morpholin-4-yl-ethanone (0.241 g, 0.00115 mol), 1-Methoxy-2-propanol (1.26 mL, 0.0128 mol) and N,N-Diisopropylethylamine (0.200 mL, 0.00115 mol) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 7% methanol). The collected fraction afforded a yellow solid (62 mg, 27%). LCMS (E/I+) 434.8 (M+H). MP 179-182° C. NMR 1H (DMSO-d6)-9.54 (s, 1H), 8.90 (s, 1H), 7.82 (dd, 1H, JJ=1.60, 7.70 Hz), 7.40-7.49 (m, 2H), 7.18 (d, 1H, J=8.23 Hz), 7.08 (t, 1H, J=7.64 Hz), 6.92 (d, 1H, J=4.70 Hz), 6.88 (, d, 1H, J=4.70 Hz), 6.43 (d, 1H, J=1.76 Hz), 3.78 (s, 3H), 3.52-3.62 (m, 4H), 3.39-3.52 (m, 4H), 3.30 (s, 3H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.000522 mol, 0.150 g | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 2-(3-Amino-pyrazol-1-yl)-1-morpholin-4-yl-ethanone | 0.00115 mol, 0.241 g | NC1=NN(C=C1)CC(=O)N1CCOCC1 | C9H14N4O2
reactant | 1-Methoxy-2-propanol | 0.0128 mol, 1.26 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.00115 mol, 0.200 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-{3-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-pyrazol-1-yl}-1-morpholin-4-yl-ethanone | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=NN(C=C2)CC(=O)N2CCOCC2 | C22H23N7O3
